US06376487B1
5-(2-Chloropyrid-5-ylmethyl)-3-methyl-4-nitroiminoperhydro-1,3,5-oxadiazine (Table 1, Compound No. 1.2).
A mixture of 1.44 g of 3-methyl-4-nitroiminoperhydro-1,3,5-oxadiazine, 2.2 g of 2-chloro-5-chloromethylpyridine, 3.7 g of potassium carbonate and 20 ml of N,N-dime-thylformamide is heated for 4 hours at 50° and filtered, the filtrate is evaporated in vacuo on a rotary evaporator, and the residue is purified by chromatography [silica gel; dichloro-methane/methanol (95:5)]. This gives the tide compound which melts at 116 to 118°.

reactant | 3-methyl-4-nitroiminoperhydro-1,3,5-oxadiazine | 1.44 g | CN1COCNC1=N[N+](=O)[O-] | C4H8N4O3
reactant | 2-chloro-5-chloromethylpyridine | 2.2 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | potassium carbonate | 3.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dime-thylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-(2-Chloropyrid-5-ylmethyl)-3-methyl-4-nitroiminoperhydro-1,3,5-oxadiazine | ClC1=NC=C(C=C1)CN1C(N(COC1)C)=N[N+](=O)[O-] | C10H12ClN5O3
